US08604034B2
A solution of crude diethyl 2-{2-(tert-butoxycarbonyl)-1-[2-(4-methoxyphenyl)-2-oxoethyl]hydrazinyl}but-2-enedioate (1.3 g) in toluene was added to polyphosphoric acid at 85° C. The reaction was heated at 85° C. for 1 hour after which time it was worked-up to give crude ethyl 2-[2-(4-methoxyphenyl)-2-oxoethyl]-5-oxo-2,5-dihydro-1H-pyrazole-3-carboxylate (800 mg). ESI-MI m/z [M+H]+ 305.3.

reactant | diethyl 2-{2-(tert-butoxycarbonyl)-1-[2-(4-methoxyphenyl)-2-oxoethyl]hydrazinyl}but-2-enedioate | 1.3 g | C(C)(C)(C)OC(=O)NN(CC(=O)C1=CC=C(C=C1)OC)C(C(=O)OCC)=CC(=O)OCC | C22H30N2O8
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-[2-(4-methoxyphenyl)-2-oxoethyl]-5-oxo-2,5-dihydro-1H-pyrazole-3-carboxylate | 800 mg | COC1=CC=C(C=C1)C(CN1NC(C=C1C(=O)OCC)=O)=O | C15H16N2O5
